Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Bactremia
 
Major Surgical or Invasive Procedure:
___: Right sided ___ Drain
___: TEE
 
History of Present Illness:
Mr ___ is a pleasant ___ w/ metastatic ampullary
adenocarcinoma (s/p pylorus-preserving Whipple and portal vein
reconstruction on ___ c/b takeback for retroperitoneal
bleed, previously on gem/abraxane), Cholangitis, T2DM, PE (s/p
IVC filter), who p/w GPC bacteremia. 

Of note, pt was admitted for diffuse abdominal pain on ___,
found to have elevated LFTs and imaging c/f hepatic abscesses 
and
cholangitis. He was found to have on MRCP hepatic 
microabscesses,
and bacteremia w/ Klebsiella and E Coli, last grown ___, with
course c/b recurrent fever/leukocytosis. He cleared his cultures
and PICC was placed on ___ and was discharged ___ on IV
ceftriaxone 2g Q24hr and Metronidazole PO 500mg TID. Plan to
complete at least 4 weeks antibiotic course (___). 

He went home yesterday and felt weak. No new sx. Overnight he
felt feverish but did not have any new localizing sx aside from
feeling weaker. Tmax 100.7F. He received a call from oncology
that blood cultures were positive (gram-positive cocci in
chains), and was instructed to come back to the hospital for
admission. 

In ED, Tmax 102.8. Initial HR 150s but improved to 114 with IVF
(? 2L NS). Received Cefepime, Flagyl, and Vancomycin and was
admitted. 

 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
As per last clinic note by Dr ___:  
 "diagnosed with adenocarcinoma when he  
 presented in ___ with abdominal symptoms and ERCDP  
 ___ at ___ demonstrated a large, fungated mass lesion  

 appeared to involve the ampullary orifice with spontaneous  
 bleeding and friability. Despite multiple attempts, unable to  
 cannulate biliary tract. Ampullary bx at that time showed  
 invasive adenocarcinoma, moderately-differentiated. Admitted  
 ___ to ___ and treated for cholangitis. Started neoadjuvant  

 chemotherapy with FOLFOX ___. Chemotherapy course
complicated  
 by admissions for abdominal pain, cholangitis, c.diff and PEs 
in
 ___. Received EBRT 2400 cGy: ___.  
 Final dose of FOLFOX ___ and underwent resection
___.  
 Final surgical pathology demonstrated ypT4N1, grade 1, well  
 differentiated adenocarcinoma with ___ lymph nodes involved,  
 negative margins (nearest 1mm from superior SMA/vein with  
 perinueral invasion but no lymphovascular invasion moderate  
 treatment effect.  
 Adjuvant gemcitabine chemo x 6 months completed ___. Adjuvant course complicated multiple fevers requiring  
 hospital visits, including one for gram-negative bacteremia in  

 ___ treated with antibiotics.  
 He also follows with local oncologist Dr. ___.  
 Post treatment course has been complicated by intermittent  
 epigastric spasms for which he sees ___.  
 ___ was over 4000 at time of diagnosis and has been variably 

 elevated since the surgery.  
 CT on ___ showed a omental nodule and 3 nonspecific  
 hyper  
 attenuating hepatic lesions. Further evaluation with MRI  
 confirmed omental nodularity but did not show any suspicious  
 hepatic lesions.  
 He underwent a CT-guided biopsy on ___. No cancer  
 was identified. The biopsy was technically difficult.  
 Admitted ___ after presenting to the ED with abdominal pain 

 and constipation.  
 Bx confirmed met ampullary cancer  
 ___: C1D1 Gemcitabine Abraxane  
 ___: Pt recommended to continue on the current treatment 
while
 simultaneously waiting for the OncoPanel to assess for other  
 options but he wanted to postpone treatment and review  
 it with Dr. ___. Accordingly, is to be seen in 2 weeks 
with
MRI beforehand  

PAST MEDICAL HISTORY (per OMR):
 Diabetes  
 Hypertension  
 Hyperlipidemia  
 Hiatal hernia  
 C4-C5 fusion for bulging disk  
 PEs s/p IVC filter placement in ___  
 Cholangitis s/p CBD stent  

 
Social History:
___
Family History:
Siblings: HTN, HL, no cancers 
Mother: deceased at ___ from ___ 
Father: ___ at ___; h/o EtoH related cirrhosis but died of 
MI
Aunts: Mom sister with lung cancer in ___
Uncles:Uncle ___ with throat (materal) cancer; heavy smoker
Maternal Grandmother: Died at ___ ? MI
Maternal Grandfather: ___ in ___ of MI
Paternal Grandmother: MI, DM
Paternal Grandfather: ___, unknown cause
Children: ___ (son ___) HL; ___ (Daughter ___) delayed
development; Oldest daughter passed at ___ of MVA
 
Physical Exam:
#ERROR!
ADMISSION PHYSICAL EXAM:
#ERROR!
VITAL SIGNS: 97.9PO 115 / 77 114 18 100
General:  NAD, ambulating in hallways comfortably 
HEENT:  MMM, no OP lesions, no cervical/supraclavicular
adenopathy
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  CTAB, No C/W/R, No respiratory distress
ABD:  BS+, soft, NTND, minimal diffuse TTP
LIMBS: WWP, no ___, no tremors
SKIN:  No rashes on the extremities
NEURO:  Grossly normal
___: RUE ___ site intact, not ttp

#ERROR!
DISCHARGE PHYSICAL EXAM:
#ERROR!
VS: ___ ___ Temp: 98.7 PO BP: 131/87 HR: 102 RR: 18 O2 
sat:
100% O2 delivery: Ra   
Gen: Middle aged man sitting in bed in NAD
HEENT:  Anicteric sclerae, MMM, no oral lesions
CV:  RRR - no m/r/g
PULM:  CTAB - no wheezes, rales, or crackles
ABD:  BS+, soft, ND, NT in all quandrats, +TTP along R flank
where prior drain site was, with surrounding skin mildly
edematous but non-erythematous
EXT: No BLE edema
SKIN:  No rashes visualized
NEURO:  Grossly normal, no facial asymmetry
 
Pertinent Results:
#ERROR!
ADMISSION LABS:
#ERROR!
___ 08:00AM BLOOD WBC-23.6* RBC-4.20* Hgb-9.3* Hct-30.8* 
MCV-73* MCH-22.1* MCHC-30.2* RDW-18.7* RDWSD-47.6* Plt ___
___ 08:00AM BLOOD Neuts-84.8* Lymphs-7.3* Monos-3.9* 
Eos-1.7 Baso-0.3 Im ___ AbsNeut-19.97* AbsLymp-1.73 
AbsMono-0.91* AbsEos-0.41 AbsBaso-0.08
___ 12:00PM BLOOD Hypochr-2+* Anisocy-2+* Poiklo-OCCASIONAL 
Macrocy-1+* Microcy-1+* Polychr-OCCASIONAL Ovalocy-OCCASIONAL 
Target-OCCASIONAL Fragmen-OCCASIONAL
___ 08:00AM BLOOD Plt ___
___ 08:00AM BLOOD Glucose-134* UreaN-16 Creat-0.5 Na-138 
K-4.8 Cl-95* HCO3-28 AnGap-15
___ 08:00AM BLOOD ALT-68* AST-38 LD(LDH)-189 AlkPhos-469* 
TotBili-0.4 DirBili-<0.2 IndBili-0.4
___ 08:00AM BLOOD Calcium-9.2 Phos-3.7 Mg-1.9
___ 08:00AM BLOOD CEA-36.3*
___ 12:27PM BLOOD Lactate-2.4*
___ 05:09PM BLOOD Lactate-1.3

#ERROR!
OTHER PERTINENT LABS:
#ERROR!
___ 12:00PM BLOOD Lipase-68*

___ 08:00 
CA ___  
  Test                          Result              Reference 
Range/Units
CA ___                       ___  H            <34 U/mL

#ERROR!
MICROBIOLOGY:
#ERROR!
___ 8:00 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ENTEROCOCCUS FAECIUM.    FINAL SENSITIVITIES. 
         Daptomycin 2.0 MCG/ML  test result performed by Etest. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS FAECIUM
                             |   
AMPICILLIN------------  =>32 R
DAPTOMYCIN------------       S
LINEZOLID-------------     2 S
PENICILLIN G----------  =>64 R
VANCOMYCIN------------  =>32 R

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS IN SHORT CHAINS. 
      Reported to and read back by ___ (___), 
___ @
      08:51AM. 

___ 5:17 am BLOOD CULTURE      Source: Line-PICC. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ENTEROCOCCUS FAECIUM. 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
___
         (___). 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 

UCx X2: No Growth

#ERROR!
IMAGING/STUDIES:
#ERROR!
CXR ___ IMPRESSION: No acute cardiopulmonary process. 

MRI LIVER ___ IMPRESSION: 
1. Interval improvement of multiple hepatic micro abscesses 
throughout the 
liver, main the left hepatic lobe. 
2. However, there has been continued interval increase in size 
of a right 
hepatic lobe (segment 6) multiloculated abscess measuring 3.4 
cm. 
3. Unchanged mild central intrahepatic biliary ductal dilatation 
with mural enhancement consistent with cholangitis. 
4. Unchanged pancreatic tail collection. 
5. Postsurgical changes related to ___'s procedure. 
  
RECOMMENDATION(S):  The right hepatic lobe abscess may be 
amenable for 
drainage.  Consider ultrasound feasibility scan. 

CT ITNERVENTIONAL PROCEDURE ___ IMPRESSION: 
1. Successful CT-guided placement of an ___ pigtail 
catheter into the 
right hepatic collection.  Of note, fluid could not be aspirated 
likely due to phlegmonous nature rather than an organized fluid 
collection. 
2. Trace postprocedure perihepatic hemorrhage.  Continued 
clinical follow-up is recommended. 

CT ABD/PELVIS ___ IMPRESSION: 
1. No evidence of retroperitoneal hematoma. 
2. Grossly stable appearance of the liver abscess, status post 
pigtail 
catheter placement.  This is somewhat difficult to assess in the 
absence of contrast. 
3. Multiple peritoneal metastatic nodules as described above, 
less conspicuous on today's exam due to lack of intravenous 
contrast. 

TTE ___ CONCLUSION: The left atrium is normal in size. The 
estimated right atrial pressure is ___ mmHg. Normal left 
ventricular wall thickness, cavity size, and regional/global 
systolic function (biplane LVEF = 61%). Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No masses or vegetations are seen on 
the aortic valve, but cannot be fully excluded due to suboptimal 
image quality. The mitral valve leaflets are mildly thickened. 
No masses or vegetations are seen on the mitral valve, but 
cannot be fully excluded due to suboptimal image quality. 
Trivial mitral regurgitation is seen. The tricuspid valve 
leaflets are mildly thickened. No masses or vegetations are seen 
on the tricuspid valve, but cannot be fully excluded due to 
suboptimal image quality. The pulmonary artery systolic pressure 
could not be determined. There is a trivial/physiologic 
pericardial effusion. 

 IMPRESSION: Normal biventricular wall thickness, cavity size, 
and regional/global systolic function. No valvular abnormalities 
or pathologic flow identified. No echocardiographic evidence of 
endocarditis. If clinically indicated, a transesophageal 
echocardiogram may better assess for valvular vegetations.  

CT INTERVENTIONAL PROCEDURE ___ IMPRESSION:  
An approximately 5.5 cm hypoechoic and hypodense collection 
within the right hepatic lobe was targeted for aspiration or 
drainage.  This was determined to be solid during attempted 
sampling, likely representing phlegmon in the setting of known 
infection.  A previously placed pigtail catheter was removed 
without placement of a new catheter into the collection. 
  
RECOMMENDATION(S):  4 week followup CT or MRI is recommended to 
ensure 
resolution or improvement. 

TEE ___ IMPRESSION: No spontaneous echo contrast or 
thrombus is seen in the body of the right atrium/right atrial 
appendage. No thrombus/mass is seen in the right atrium or right 
atrial appendage. The right atial appendage ejection velocity is 
normal. There is no evidence for an atrial septal defect by 
2D/color Doppler. Global systolic function is normal (LVEF 
greater than 55%). The right ventricle has normal free wall 
motion. There are no aortic arch atheroma and no atheroma in the 
descending aorta. The aortic valve leaflets (3) are mildly 
thickened. No masses or vegetations are seen on the aortic 
valve. No abscess is seen. There is no aortic regurgitation. The 
mitral leaflets are mildly thickened with no mitral valve 
prolapse. No masses or vegetations are seen on the mitral valve. 
No abscess is seen. There is physiologic mitral regurgitation. 
No masses/vegetations are seen on the pulmonic valve. The 
tricuspid valve leaflets appear structurally normal. No 
mass/vegetation are seen on
the tricuspid valve No abscess is seen. There is mild [1+] 
tricuspid regurgitation.

CXR ___ IMPRESSION:
Left PICC line tip is at the level of cavoatrial junction.  
Heart size and mediastinum are stable.  Lungs are clear.  No 
pleural effusion or 
pneumothorax. 

#ERROR!
DISCHARGE LABS:
#ERROR!
___ 06:40AM BLOOD WBC-13.7* RBC-4.33* Hgb-9.7* Hct-32.9* 
MCV-76* MCH-22.4* MCHC-29.5* RDW-20.5* RDWSD-54.9* Plt Ct-UNABLE 
TO 
___ 06:40AM BLOOD Neuts-90.6* Lymphs-4.7* Monos-2.9* 
Eos-0.8* Baso-0.4 Im ___ AbsNeut-12.41* AbsLymp-0.65* 
AbsMono-0.40 AbsEos-0.11 AbsBaso-0.05
___ 06:40AM BLOOD ___ PTT-31.0 ___
___ 06:40AM BLOOD Glucose-210* UreaN-5* Creat-0.5 Na-138 
K-4.9 Cl-95* HCO3-28 AnGap-15
___ 06:40AM BLOOD ALT-36 AST-68* LD(LDH)-249 CK(CPK)-21* 
AlkPhos-713* TotBili-0.4
___ 06:40AM BLOOD Albumin-3.3* Calcium-8.6 Phos-3.0 Mg-1.8
 
Brief Hospital Course:
Mr. ___ is a ___ w/ metastatic ampullary adenocarcinoma (s/p 
pylorus-preserving Whipple and portal vein reconstruction, 
previously on gem/abraxane), T2DM, PE (s/p IVC filter), recent 
admission for cholangitis c/b ecoli/klebsiella bacteremia and
microabscesses who p/w new VRE bacteremia and fevers, now s/p ___ 
drain placement and removal (phlegmon w/o drainable fluid) and a 
negative TEE. He will be discharged on daptomycin and ertapenem 
to complete his antibiotic course. 

# VRE Bacteremia
# Hepatic Abscesses: Likely represents enterococcus from 
hepatobiliary source given known hepatic abscesses. MRCP with 
overall decrease in hepatic microabscesses, with the exception 
of one abscess that is enlarged to 3.4 cm. S/p ___ drain 
___ c/b trace periphepatic blood found afterwards, removed on 
___ given non-drainable phlegmon visualized. Of note, ___ 
BCx returned positive with enterococcus faeceium (after 
Daptomycin administration) - as such, a TEE was done to rule out 
endocarditis which was negative. He will be discharged on 
Daptomycin 300 mg IV daily and Ertapenem 1g IV daily until 
___ with follow-up in early ___ with ID. 

# Pain control: He had significant pain from new ___ drain 
(removed on ___. He was continued on his home Fentanyl patch. 
His pain regimen was increased in the setting of this pain and 
he was placed on Oxycontin 30 mg BID. Now that the drain was 
removed, he will be downtritrated to Oxycontin 20 mg BID. 
Further downtitration should continue as an outpatient. 

# T2DM: History of poor control in the past. ___ was 
consulted while inpatient. He will be discharged with Lantus and 
Humalog. Lantus will be 12 U in the AM and 10 in the ___. See 
attached Humalog sliding scale. He will have follow-up with his 
PCP with suggestion of follow-up with ___. 

# Anemia: Baseline Hgb 9.5-10.5. Hgb drop from 8.4 to 6.9 
overnight on ___ i/s/o ___ with known post-procedural 
note of perihepatic bleeding. He was given 1u pRBCs. He remained 
hemodynamically stable. His discharge hemoglobin was 9.7. 

# Metastatic ampullary adenocarcinoma: Holding chemotherapy due
ongoing infection. His dexamethasone was donwtitrated to 1 mg 
daily (from 1 mg BID; to be continued until he is seen by Dr. 
___ on ___. His home pain control was continued as 
described above. His other symptomatic management was also 
continued. 

Transitional Issues:
#ERROR!
#Liver abscess/bacteremia:
[ ] Discharged on daptomycin 300 mg Q24H and ertapenem 1g daily 
until ___. 
[ ] Patient will need weekly labs as below:
WEEKLY: CBC with differential, BUN, Cr, AST, ALT, Total Bili, 
ALK
PHOS, CPK
ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___
[ ] He will follow-up with Dr. ___ on ___
[ ] Continue Dexamethasone 1mg daily until seen by Dr. ___
[ ] Per Radiology, recommend 4 week follow up CT or MRI to 
ensure hepatic collection has resolved (___)

#Pain: 
[ ] Downtitrate Oxycontin, discharged with 2 weeks of 20 mg 
Oxycontin BID. 

#Diabetes
[ ] Discharged on Lantus 12 mg AM and 10 ___. Sliding scale 
attached. 
[ ] Need to monitor BG with meals and record BG for review with 
___
[ ] Will see PCP for ___ on ___, recommend follow-up with 
___ thereafter. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
2. Creon ___ CAP PO TID W/MEALS 
3. Dexamethasone 1 mg PO Q12H 
4. Dronabinol 2.5 mg PO BID 
5. Fentanyl Patch 50 mcg/h TD Q72H 
6. Lactulose ___ mL PO Q6H:PRN constipation 
7. LORazepam 1 mg PO Q4H:PRN anxiety/insomnia 
8. Metoclopramide 5 mg PO BID 
9. Omeprazole 20 mg PO BID 
10. Tamsulosin 0.4 mg PO QHS 
11. CefTRIAXone 2 gm IV Q 24H 
12. MetroNIDAZOLE 500 mg PO Q8H 
13. Ondansetron ODT 8 mg PO Q8H:PRN nausea/vomiting 
14. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
15. Docusate Sodium 100 mg PO BID 
16. Senna 8.6 mg PO BID 
17. Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush 
18. MetFORMIN (Glucophage) 1000 mg PO BID 
19. OxyCODONE (Immediate Release) 10 mg PO Q3H:PRN Pain - 
Moderate 
20. GlipiZIDE XL 10 mg PO QAM 
21. Nystatin Oral Suspension 5 mL PO QID 
22. Lantus Solostar (insulin glargine) 18 units subcutaneous BID 

23. HumaLOG (insulin lispro) 100 unit/mL subcutaneous QIDACHS 

 
Discharge Medications:
1.  Daptomycin 300 mg IV Q24H 
RX *daptomycin 500 mg 300 mg IV once a day Disp #*23 Vial 
Refills:*0 
2.  Ertapenem Sodium 1 g IV 1X Duration: 1 Dose 
RX *ertapenem [Invanz] 1 gram 1 g IV Daily Disp #*23 Vial 
Refills:*0 
3.  Glargine 12 Units Breakfast
Glargine 10 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
RX *insulin glargine [Lantus Solostar] 100 unit/mL (3 mL) AS DIR 
12 Units before BKFT; 10 Units before BED; Disp #*3 Syringe 
Refills:*0
RX *insulin lispro [Humalog KwikPen] 100 unit/mL AS DIR Up to 11 
Units QID per sliding scale Disp #*3 Syringe Refills:*0 
4.  OxyCODONE SR (OxyconTIN) 20 mg PO Q12H 
RX *oxycodone [OxyContin] 20 mg 1 tablet(s) by mouth twice a day 
Disp #*28 Tablet Refills:*0 
5.  Dexamethasone 1 mg PO DAILY  
6.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
7.  Creon ___ CAP PO TID W/MEALS  
8.  Docusate Sodium 100 mg PO BID  
9.  Dronabinol 2.5 mg PO BID  
10.  Fentanyl Patch 50 mcg/h TD Q72H  
11.  Lactulose ___ mL PO Q6H:PRN constipation  
12.  LORazepam 1 mg PO Q4H:PRN anxiety/insomnia  
13.  MetFORMIN (Glucophage) 1000 mg PO BID  
14.  Metoclopramide 5 mg PO BID  
15.  Nystatin Oral Suspension 5 mL PO QID  
16.  Omeprazole 20 mg PO BID  
17.  Ondansetron ODT 8 mg PO Q8H:PRN nausea/vomiting  
18.  OxyCODONE (Immediate Release) 10 mg PO Q3H:PRN Pain - 
Moderate  
19.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
20.  Senna 8.6 mg PO BID  
21.  Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush  
22.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses: 
VRE Bloodstream infection
Hepatic Abscesses 

Secondary diagnosis:
Diabetes mellitus II
Anemia
Metastatic ampullary adenocarcinoma 
Severe malnutrition in the setting of chronic illness
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

You were admitted with fevers and a positive blood culture. We 
believed that this infection may have been due to the abscesses 
in the liver.  We put in a drain to try to drain this area, but 
there was not much fluid to be drained and we removed the drain. 
 We also checked your heart with an echocardiogram and did not 
see any infection there either.  

Please take your medications and keep your follow-up 
appointments as listed below.  

It was a pleasure taking of you, 

-Your ___ Team 
 
Followup Instructions:
___